 
* Author: FOSSEE
* Date:

r1  in net-_c1-pad2_ 1
l1  out gnd 100m
c1  out net-_c1-pad2_ 10u
v1 in gnd  ac 1 0
* u1  in plot_v1
* u2  out plot_v1
.ac lin 20 1Hz 250Hz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
      			